US05223499
To a stirred solution of 2-amino-4-methyl-3-nitropyridine (25.6 g, 167 mmol) in conc. H2SO4 (50 mL) at 0° C. was added HNO3 (7.77 mL, d=1.49) drop-wise over 30 min. The mixture was warmed to r.t. for 1 h then heated to 50° C. for 60 min. The reaction mixture was cooled and poured into 500 g of ice. The resulting precipitate was filtered, washed with 50 mL of H2O, and air dried to give 2-amino-4-methyl-3,5-dinitro-pyridine as a yellow solid.

reactant | 2-amino-4-methyl-3-nitropyridine | 167 mmol, 25.6 g | NC1=NC=CC(=C1[N+](=O)[O-])C | C6H7N3O2
reactant | HNO3 | 7.77 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 2-amino-4-methyl-3,5-dinitro-pyridine | NC1=NC=C(C(=C1[N+](=O)[O-])C)[N+](=O)[O-] | C6H6N4O4
